**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  ESD Suppressor-Array
* Matchcode:              WE-VEA 
* Library Type:           LTspice
* Version:                rev25a
* Created/modified by:    Ella      
* Date and Time:          2025-02-26
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
* The models were generated by Würth Elektronik in cooperation with Graz University of Technology - Institute of Electronics
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 0508_82380050100 Anode Cathode
L1 Anode N001 0.854n
C1 N001 N002 10.7p
R1 N002 Cathode 1.53
R2 N001 Cathode 1e7
D1 N001 Positive idealD
D2 N006 Cathode mainIV
F1 0 N011 V2 +1
R3 N011 0 1e3
V2 Positive N003 0
S1 N004 N003 SBCM_C 0 sbcmSW
V3 SBCM_C N011 18
C2 N011 0 1200p
D3 N011 N017 idealD
D4 N015 N011 idealD
R4 N021 0 50
R5 N015 0 50
F2 0 N012 V4 +1
R6 N012 0 1e3
V4 N004 N005 0
S2 N006 N005 CM_C 0 cmSW
V5 CM_C N012 1.5
C3 N012 0 3200n
D5 N012 N018 idealD
D6 P001 N012 idealD
R7 N022 0 50
R8 P001 0 50
D7 N006 Cathode mainIV1
V6 N017 N021 100
V7 N018 N022 100
R9 N011 0 1e9
R10 N012 0 1e6
D8 Negative N001 idealD
D9 Cathode N010 mainIV
F3 0 N013 V8 -1
R15 N013 0 1e3
V8 Negative N007 0
S3 N008 N007 SBCM_C_N 0 sbcmSW
V9 SBCM_C_N N013 18
C5 N013 0 1200p
D10 N013 N019 idealD
D11 N016 N013 idealD
R16 N023 0 50
R17 N016 0 50
F4 0 N014 V10 -1
R18 N014 0 1e3
V10 N008 N009 0
S4 N010 N009 CM_C_N 0 cmSW
V11 CM_C_N N014 1.5
C6 N014 0 3200n
D12 N014 N020 idealD
D13 P002 N014 idealD
R19 N024 0 50
R20 P002 0 50
D14 Cathode N010 mainIV1
V12 N019 N023 100
V13 N020 N024 100
R21 N013 0 1e6
R22 N014 0 1e9
D15 N006 Cathode mainIV2
D16 N006 Cathode mainIV3
D17 Cathode N010 mainIV2
D18 Cathode N010 mainIV3
.model D D
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
.model mainIV D(Is=1.0e-18 N=34.564863 Rs=8.440207 )
.model sbcmSW SW(Ron=0.001 Roff=25 Von=70 Voff=0)
.model cmSW SW(Ron=0.001 Roff=13 Von=4 Voff=0)
.model mainIV1 D(Is=1e-18 N=52.155602 Rs=4.8903025)
.model mainIV2 D(Is=1e-18 N=71.67848 Rs=6)
.model mainIV3 D(Is=1e-18 N=101.651514 Rs=15.13)
*.ic v(snap_c)=0
*.ic v(snap_c_N)=0
.ends 0508_82380050100
******
.subckt 0612_82380180121 Anode Cathode
L1 Anode N001 0.79n
C1 N001 N002 99p
R1 N002 Cathode 0.243
R2 N001 Cathode 1e7
D1 N001 Positive idealD
D2 N006 Cathode mainIV
F1 0 N011 V2 +1
R3 N011 0 1e3
V2 Positive N003 0
S1 N004 N003 SBCM_C 0 sbcmSW
V3 SBCM_C N011 15
C2 N011 0 800p
D3 N011 N017 idealD
D4 N015 N011 idealD
R4 N021 0 50
R5 N015 0 50
F2 0 N012 V4 +1
R6 N012 0 1e3
V4 N004 N005 0
S2 N006 N005 CM_C 0 cmSW
V5 CM_C N012 2.125
C3 N012 0 290n
D5 N012 N018 idealD
D6 P001 N012 idealD
R7 N022 0 50
R8 P001 0 50
D7 N006 Cathode mainIV1
V6 N017 N021 100
V7 N018 N022 100
R9 N011 0 1e9
R10 N012 0 1e6
D8 Negative N001 idealD
D9 Cathode N010 mainIV
F3 0 N013 V8 -1
R15 N013 0 1e3
V8 Negative N007 0
S3 N008 N007 SBCM_C_N 0 sbcmSW
V9 SBCM_C_N N013 15
C5 N013 0 800p
D10 N013 N019 idealD
D11 N016 N013 idealD
R16 N023 0 50
R17 N016 0 50
F4 0 N014 V10 -1
R18 N014 0 1e3
V10 N008 N009 0
S4 N010 N009 CM_C_N 0 cmSW
V11 CM_C_N N014 2.125
C6 N014 0 290n
D12 N014 N020 idealD
D13 P002 N014 idealD
R19 N024 0 50
R20 P002 0 50
D14 Cathode N010 mainIV1
V12 N019 N023 100
V13 N020 N024 100
R21 N013 0 1e6
R22 N014 0 1e9
D15 N006 Cathode mainIV2
D16 N006 Cathode mainIV3
D17 Cathode N010 mainIV2
D18 Cathode N010 mainIV3
.model D D
.model idealD D(Is=1e-14 N=0.1 Rs=0.001 )
.model mainIV D(Is=8.4e-16 N=47.23 Rs=11.0078 )
.model sbcmSW SW(Ron=0.001 Roff=30 Von=60 Voff=0)
.model cmSW SW(Ron=0.001 Roff=10 Von=6.5 Voff=0)
.model mainIV1 D(Is=4.6e-16 N=50.6 Rs=1.8091)
.model mainIV2 D(Is=4.8e-16 N=58.39 Rs=1.009)
.model mainIV3 D(Is=1e-20 N=51.26 Rs=0.7097)
*.ic v(snap_c)=0
*.ic v(snap_c_N)=0
.ends 0612_82380180121
******